US04610983
In 20 ml of acetic anhydride was dissolved 5 g of DL-N-[β-(2-furyl)acryloyl]glutamic acid, and the resulting solution was heated at 100° C. for 15 minutes, after which the excessive acetic anhydride was removed by distillation under reduced pressure to obtain DL-N-[β-(2-furyl)acryloyl]glutamic acid anhydride. This product was added to a mixed solution of 5 ml of di(n-propyl)-amine and 5 ml of water with ice-cooling, and the resulting mixture was subjected to reaction for 2 hours. After completion of the reaction, the reaction mixture was adjusted to pH 4 with diluted hydrochloric acid and extracted with two 20-ml portions of ethyl acetate, and the organic layers were combined and then dried over anhydrous magnesium sulfate. Subsequently, the solvent was removed by distillation under reduced pressure to obtain 4 g (yield 62%) of DL-N2 -[β-(2-furyl)acryloyl]-N1,N1 -di-n-propyl-α-glutamylamide having a melting point of 130°-131° C.

reactant | N-[β-(2-furyl)acryloyl]glutamic acid | O1C(=CC=C1)C=CC(=O)N[C@@H](CCC(=O)O)C(=O)O | C12H13NO6
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[β-(2-furyl)acryloyl]glutamic acid anhydride | O1C(=CC=C1)C=CC(=O)N[C@H]1CCC(=O)OC1=O | C12H11NO5
